US04049417
Preparation of N-(2-Hydroxyethyl)-1,4-cyclohexanebis(methylamine)
A solution of 14.2 gm. (0.1 mole) of 1,4-cyclohexanebis(methylamine) in 150 ml. anhydrous methyl alcohol and under an atmosphere of nitrogen is warmed to 45°-50° C. In a 20 minute period, there is introduced with good agitation and beneath the liquid surface a total of 1.1 gm. (0.025 mole) of ethylene oxide in gaseous form. The reaction temperature is maintained at 45°-50° C. for an additional one-half hour after stopping the addition of ethylene oxide. The methyl alcohol is removed by distillation at atmospheric pressure; excess 1,4-cyclohexanebis(methylamine) is readily separated from the product by fractionation under reduced pressure. Only monoethoxylated compound remained and could be used as such or further purified by distillation at reduced pressure.

reactant | 1,4-cyclohexanebis(methylamine) | 0.1 mole | C1(CCC(CC1)CN)CN | C8H18N2
reactant | ethylene oxide | 0.025 mole | C1CO1 | C2H4O
solvent | methyl alcohol | CO | CH4O
product | N-(2-Hydroxyethyl)-1,4-cyclohexanebis(methylamine) | OCCNCC1CCC(CC1)CN | C10H22N2O
